US07713994B2
(4Z)-6-(3-Furyl)-4-{[(3-hydroxy-4,5-dimethoxybenzyl)amino)methylene}isoquinoline-1,3(2H,4H-dione
Using the procedure described for the preparation of example 46, 120 mg of brown solid (50%) yield is obtained from 150 mg (0.57 mmol) of (4E)-6-(3-furyl)methoxymethylene-isoquinoline-1,3(2H,4H-dione, (prepared similarly to 4-methoxymethylene-6-thiophin-3-yl-isoquinolin-(4H)-1,3-dione) and 3-hydroxy-4,5-dimethoxybenzylamine (115 mg, 0.57 mmol), (prepared similarly to (4E)-6,7-dimethoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione and 3-hydroxy-4-methoxy-benzylamine hydrogen chloride, except methoxy amine hydrogen chloride is used instead of hydroxylamine hydrogen chloride); mp 263-264° C.

reactant | 3-hydroxy-4,5-dimethoxybenzylamine | 0.57 mmol, 115 mg | OC=1C=C(CN)C=C(C1OC)OC | C9H13NO3
reactant | (4E)-6,7-dimethoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | COC=1C=C2\C(\C(NC(C2=CC1OC)=O)=O)=C/OC | C13H13NO5
reactant | 3-hydroxy-4-methoxy-benzylamine hydrogen chloride | Cl.OC=1C=C(CN)C=CC1OC
reactant | methoxy amine hydrogen chloride | Cl.CON
product | (4Z)-6-(3-Furyl)-4-{[(3-hydroxy-4,5-dimethoxybenzyl)amino)methylene}isoquinoline | O1C=C(C=C1)C=1C=C2/C(/CN=CC2=CC1)=C/NCC1=CC(=C(C(=C1)OC)OC)O | C23H22N2O4
